US06576765B2
16.1 g (0.092 mole) of 23% sodium hydroxide, 10 ml of water and 4.7 g (0.04 mole) of L-valine were placed in a 300-ml reaction flask, and stirred at room temperature for 30 minutes. Thereto was dropwise added 5.9 g.(0.048 mole) of isopropyl chlorocarbonate at room temperature, followed by stirring for 1 hour. The resulting mixture was neutralized with concentrated hydrochloric acid. Thereto were added 50 ml of toluene and 0.06 g (0.0004 mole) of N,N-dimethylaminobenzylamine. Then, 4.7 g (0.038 mole) of isopropyl chlorocarbonate was added dropwise at room temperature, followed by stirring for 1 hour. Thereafter, there was dropwise added a solution of 7.5 g (0.038 mole) of (R)-1-(6-fluorobenzothiazol-2-yl)ethylamine (purity: 98.3%, optical purity: 99.0% ee) dissolved in 50 ml of toluene, produced according to the above Reference Example, followed by stirring at room temperature for 2 hours. 50 ml of water was added; the resulting mixture was heated to 70° C. and subjected to phase separation; the toluene layer was washed with 50 ml of hot water and subjected to solvent removal to obtain 13.4 g (yield: 92.4%) of isopropyl [(S)-1-[(R)-1(6-fluorobenzothiazol-2-yl)ethylcarbamoyl]-2-methylpropyl]carbamate (purity: 96.3%, the proportion of formed intended substance in four diastereomers: 98.5%).

reactant | sodium hydroxide | 0.092 mole, 16.1 g | [OH-].[Na+]
reactant | L-valine | 0.04 mole, 4.7 g | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | isopropyl chlorocarbonate | 0.048 mole | C(OC(C)C)(=O)Cl | C4H7ClO2
reactant | hydrochloric acid | Cl | ClH
reactant | isopropyl chlorocarbonate | 0.038 mole, 4.7 g | C(OC(C)C)(=O)Cl | C4H7ClO2
reactant | (R)-1-(6-fluorobenzothiazol-2-yl)ethylamine | 0.038 mole, 7.5 g | FC1=CC2=C(N=C(S2)[C@@H](C)N)C=C1 | C9H9FN2S
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | N,N-dimethylaminobenzylamine | 0.0004 mole, 0.06 g | CNN(NC)CC1=CC=CC=C1 | C9H15N3
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | isopropyl [(S)-1-[(R)-1(6-fluorobenzothiazol-2-yl)ethylcarbamoyl]-2-methylpropyl]carbamate | 13.4 g, yield: 92.4% | FC1=CC2=C(N=C(S2)[C@@H](C)NC(=O)[C@H](C(C)C)NC(OC(C)C)=O)C=C1 | C18H24FN3O3S
